US07875645B2
7.36 g (74.4 mmol) Trimethylsilyl cyanide was added to a solution of 74.4 ml (1.0 M in THF, 74.4 mmol) tetrabutylammonium flouride in 300 ml acetonitrile and the mixture was stirred for 5 minutes. 5.28 g (24.8 mmol) rac-1-(1-Bromo-propyl)-4-methylbenzene were added and the reaction mixture was stirred at ambient temperature for 16 hours. The solvent was removed in vacuo and the viscous residue obtained was partitioned between water and dichloromethane. The dichloromethane was separated, then washed with water, dried over MgSO4 and evaporated to dryness. Purification of the residue by column chromatography on silica gel with a gradient of heptane to 9:1 heptane/ethyl acetate afforded rac-2-p-tolyl-butyronitrile as a colourless oil. NMR (CDCl3, ppm): 0.95 (3H, t), 1.77 (2H, m), 2.21 (3H, s), 3.58 (1H, t), 7.07 (4H, m).

reactant | Trimethylsilyl cyanide | 74.4 mmol, 7.36 g | C[Si](C)(C)C#N | C4H9NSi
reactant | tetrabutylammonium flouride | 74.4 mmol, 1.0 M, 74.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | rac-1-(1-Bromo-propyl)-4-methylbenzene | 24.8 mmol, 5.28 g | BrC(CC)C1=CC=C(C=C1)C | C10H13Br
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | rac-2-p-tolyl-butyronitrile | C1(=CC=C(C=C1)C(C#N)CC)C | C11H13N
